US08389524B2
(1R)-1-({4-[(2,3-Dihydro-[1,4]oxathiino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride
A suspension of (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride (160 mg, 0.428 mmol) (for a preparation see Example 13(k) or 15(d)) in chloroform (10 ml) and methanol (0.400 ml) under argon at room temperature was treated with triethylamine (0.179 ml, 1.283 mmol) and stirred for 0.25 h at room temperature (everything went into solution). 2,3-Dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde (for a synthesis see WO2004058144, Example 60) (77 mg, 0.428 mmol) was then added and the reaction was stirred at room temperature for 0.5 h. Sodium triacetoxyborohydride (272 mg, 1.283 mmol) was then added and the reaction was stirred at room temperature. After 1.5 h there was still some imine present by LCMS so 1 equivalent of sodium triacetoxyborohydride was added. After 1 h sat NaHCO3 (50 ml) was added followed by 20% methanol/dichloromethane (80 ml) and the aqueous was extracted and then separated from the organic layer. The aqueous layer was extracted again twice with 20% methanol/dichloromethane (2×80 ml). The combined organic extracts were dried on MgSO4, filtered and evaporated to afford 215 mg of crude product which was purified by silica chromatography using a 0-20% methanol/dichloromethane gradient to afford the free base of the title compound as yellow foam (179 mg, 90%).

reactant | (1R)-1-[(4-amino-1-piperidinyl)methyl]-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione dihydrochloride | 0.428 mmol, 160 mg | Cl.Cl.NC1CCN(CC1)C[C@@H]1CN2C(C=NC=3C=CC(N1C23)=O)=O
reactant | triethylamine | 1.283 mmol, 0.179 ml | C(C)N(CC)CC | C6H15N
reactant | 2,3-Dihydro[1,4]oxathiino[2,3-c]pyridine-7-carbaldehyde | S1CCOC=2C=NC(=CC21)C=O | C8H7NO2S
reactant | Sodium triacetoxyborohydride | 1.283 mmol, 272 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 1 equivalent | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | 50 ml | C(=O)(O)[O-].[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol dichloromethane | 80 ml | CO.ClCCl
solvent | methanol | 0.400 ml | CO | CH4O
product | (1R)-1-({4-[(2,3-Dihydro-[1,4]oxathiino[2,3-c]pyridin-7-ylmethyl)amino]-1-piperidinyl}methyl)-1,2-dihydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione hydrochloride | 179 mg, 90% | Cl.S1CCOC=2C=NC(=CC21)CNC2CCN(CC2)C[C@@H]2CN1C(C=NC=3C=CC(N2C13)=O)=O | InChI=1S/C23H26N6O3S.ClH/c30-21-2-1-18-23-28(22(31)12-26-18)14-17(29(21)23)13-27-5-3-15(4-6-27)24-10-16-9-20-19(11-25-16)32-7-8-33-20;/h1-2,9,11-12,15,17,24H,3-8,10,13-14H2;1H/t17-;/m1./s1
